US07632851B2
(4Benzo[1,2,5]oxadiazol-5-yl-phenyl)-(2-fluoro-ethyl)-amine
391 mg (1 mmol) (4-benzo[1,2,5]oxadiazol-5-yl-phenyl)-(2-fluoro-ethyl)-carbamic acid benzyl ester are hydrogenated in the presence of Pd/C, the reaction mixture filtered through celite and evaporated to dryness. The residues is column chromatographed (dichloromethane/petroleum ether 8:2) to yield the desired product as a yellow powder. MS(ES+): 258 (M+1).

reactant | (4-benzo[1,2,5]oxadiazol-5-yl-phenyl)-(2-fluoro-ethyl)-carbamic acid benzyl ester | 1 mmol, 391 mg | C(C1=CC=CC=C1)OC(N(CCF)C1=CC=C(C=C1)C=1C=CC=2C(=NON2)C1)=O | C22H18FN3O3
catalyst | Pd/C | [Pd] | Pd
product | (4Benzo[1,2,5]oxadiazol-5-yl-phenyl)-(2-fluoro-ethyl)-amine | N1=C2C(=NO1)C=C(C=C2)C2=CC=C(C=C2)NCCF | C14H12FN3O
